US08426437B2
97 μL (0.70 mmol) of triethylamine and 61 μL (0.42 mmol) of N-methylphenethylamine are added to 115 mg (0.35 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) suspended in 2 mL of anhydrous dichloromethane and 0.5 mL of anhydrous dimethylformamide. The reaction mixture is stirred for 5 hours at room temperature. The solvents are evaporated then the residue is taken up in 2 mL of anhydrous ethanol. A solution of 255 μL (3.5 mmol) of thionyl chloride in 1 mL of anhydrous ethanol is then added slowly. The reaction mixture is stirred at 70° C. for 5 days then cooled to room temperature. The solid is filtered then the filtrate is evaporated. The residue is purified by chromatography on silica (eluent dichloromethane/methanol 96/4) to give 63 mg (40%) of 8-(methyl-phenethyl-sulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate in the form of a beige solid.

reactant | triethylamine | 0.70 mmol, 97 μL | C(C)N(CC)CC | C6H15N
reactant | N-methylphenethylamine | 0.42 mmol, 61 μL | CNCCC1=CC=CC=C1 | C9H13N
reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.35 mmol, 115 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | thionyl chloride | 3.5 mmol, 255 μL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 8-(methyl-phenethyl-sulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 63 mg, 40% | CN(S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3)CCC3=CC=CC=C3.C(C)C(=O)[O-] | InChI=1S/C20H19N3O3S.C3H6O2/c1-23(12-10-14-5-3-2-4-6-14)27(25,26)15-7-8-18-17(13-15)16-9-11-21-19(16)20(24)22-18;1-2-3(4)5/h2-9,11,13,21H,10,12H2,1H3,(H,22,24);2H2,1H3,(H,4,5)/p-1
